US05405944
b) 2-Hydroxyestradiol
To the crude product (100 g) of 2-hydroxyestradiol 17-acetate obtained by the process described in Example 3-a, MeOH (3600 ml) and concentrated HCl (400 ml) were added, and the solution was refluxed for 1 hour. After the reaction mixture was cooled, water and AcOEt were added to it and the solution was neutralized by addition of NaHCO3, and extracted with AcOEt. The organic layer was washed with brine, and dried over anhydrous Na2SO4, and then evaporated in vacuo to obtain a crude product (68.7 g), which was, in turn, subjected to silica gel chromatography (elution solvent, hexane:AcOEt=1:1) to afford 59 g (91% from 2-acetylestradiol 17-acetate) of the titled compound.

reactant | 2-hydroxyestradiol 17-acetate | CC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=C(C=C34)O)O)C | C20H26O4
reactant | MeOH | 3600 ml | CO | CH4O
reactant | HCl | 400 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-Hydroxyestradiol | C[C@]12CC[C@@H]3C=4C=C(C(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O)O | C18H24O3
